Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___
1. Portal lymphadenectomy
2. Repair of hepatic artery with saphenous vein interposition 
graft 

 
History of Present Illness:
___ woman who originally presented in ___ after 
experiencing several months of severe right upper quadrant pain. 
An abdominal ultrasound on ___ revealed gallstones 
and concern for a 4-mm gallbladder polyp without any evidence of 
cholecystitis.  She underwent a CT scan on ___ 
that also showed gallstones with excessive calcifications in the 
gallbladder and an ultrasound was recommended for further 
evaluation.  She continued to have pain. Further imaging and 
work-up included a CT scan on ___ that demonstrated 
ongoing cholelithiasis with a prominent gallbladder and common 
bile duct/gallbladder neck.  She underwent a 
laparoscopic-converted-to-open cholecystectomy performed by you 
on ___ for persistent epigastric and right upper 
quadrant pain with gallstones and calcifications of her 
gallbladder seen on CT scan.  Pathology revealed adenocarcinoma
of the gallbladder and ___ positive lymph nodes.  Since her 
surgery she has had severe nausea requiring Compazine three 
times a day.  She has not had any vomiting, but has had a 13-lb. 
weight loss in this period.  She states that the pain she had 
prior to her surgery has mostly improved, with some periodic
episodes of right upper quadrant pain; however, the nausea is 
what bothers her the most.  She denies any fevers or chills and 
has had only one episode of night sweats.  She has minimal 
incisional pain and is back to eating a regular diet, although 
she states that she has no appetite secondary to the nausea.

 
Past Medical History:
T2N1 left breast cancer status post lumpectomy with chemotherapy 
and radiation in ___, status post a five-year course of 
Tamoxifen and now maintained on Femara.  She also has a history 
of uterine cancer in ___, carpal tunnel syndrome, anxiety, 
depression, peptic ulcer disease, bronchitis, claustrophobia, 
and nephrolithiasis.

PSH: laparoscopic-converted-to- open cholecystectomy on ___, left breast lumpectomy in ___, and a partial 
hysterectomy in ___.

 
Social History:
___
Family History:
Her mother died at ___ from COPD.  Her father died of unknown 
causes.
 
Physical Exam:
On exam:
Vitals signs stable.
She is an alert female in no acute distress. 
HEENT:  no scleral icterus.  PERRLA.  Mucous
membranes moist.  Neck:  no cervical lymphadenopathy.  
Cardiac:regular rate and rhythm.  
Lungs:  clear to auscultation bilaterally.  
Abdomen:  soft, nondistended.  Minimal tenderness at a 
well-healing right subcostal incision and periumbilical incision 
with evidence that staples have been removed recently. There is 
no erythema or drainage or evidence of hernia.  No masses. 
Extremities:  no peripheral edema.  Palpable distal pulses.

 
Pertinent Results:
___ 04:20PM BLOOD WBC-8.7 RBC-3.95* Hgb-12.3 Hct-34.4* 
MCV-87 MCH-31.0 MCHC-35.6* RDW-14.0 Plt ___
___ 04:20PM BLOOD ___ PTT-54.2* ___
___ 04:20PM BLOOD Glucose-136* UreaN-8 Creat-0.6 Na-139 
K-4.1 Cl-106 HCO3-23 AnGap-14
___ 04:20PM BLOOD ALT-1031* AST-853* AlkPhos-85 Amylase-43 
TotBili-2.0*

___ 04:20PM BLOOD Calcium-7.9* Phos-3.6 Mg-1.3*
___ 02:00AM BLOOD WBC-12.9* RBC-3.40* Hgb-10.7* Hct-29.9* 
MCV-88 MCH-31.3 MCHC-35.6* RDW-14.0 Plt ___
___ 02:00AM BLOOD ___ PTT-44.1* ___
___ 02:00AM BLOOD Glucose-132* UreaN-5* Creat-0.5 Na-133 
K-3.8 Cl-103 HCO3-24 AnGap-10
___ 02:00AM BLOOD ALT-1014* AST-449* LD(LDH)-454* 
AlkPhos-113* TotBili-0.8
___ 05:35AM BLOOD WBC-12.6* RBC-3.29* Hgb-10.4* Hct-28.8* 
MCV-88 MCH-31.6 MCHC-36.1* RDW-13.7 Plt ___
___ 05:35AM BLOOD Glucose-117* UreaN-4* Creat-0.5 Na-136 
K-3.6 Cl-106 HCO3-20* AnGap-14
___ 05:35AM BLOOD ALT-599* AST-133* AlkPhos-124* 
TotBili-0.9
___ 05:35AM BLOOD Albumin-3.0* Calcium-8.2* Phos-1.5* 
Mg-1.7
___ 05:20AM BLOOD WBC-9.3 RBC-3.09* Hgb-9.7* Hct-27.3* 
MCV-88 MCH-31.4 MCHC-35.6* RDW-13.7 Plt ___
___ 05:20AM BLOOD Glucose-88 UreaN-6 Creat-0.4 Na-136 
K-3.1* Cl-103 HCO3-25 AnGap-11
___ 05:20AM BLOOD ALT-388* AST-54* AlkPhos-120* TotBili-0.6
___ 05:20AM BLOOD Albumin-2.9* Calcium-7.9* Phos-2.7 Mg-1.8
___ 05:00AM BLOOD WBC-6.1 RBC-3.16* Hgb-9.9* Hct-27.4* 
MCV-87 MCH-31.3 MCHC-36.1* RDW-13.8 Plt ___
___ 05:00AM BLOOD ___ PTT-32.0 ___
___ 05:00AM BLOOD Glucose-102* UreaN-4* Creat-0.5 Na-134 
K-3.3 Cl-101 HCO3-27 AnGap-9
___ 05:00AM BLOOD ALT-268* AST-37 AlkPhos-115* TotBili-0.6
___ 05:00AM BLOOD Albumin-3.2* Calcium-8.1* Phos-2.6* 
Mg-1.8

___ Pathology:
i.  Hepatic artery lymph node, lymph node dissection (A):One 
lymph node, no carcinoma seen (___).
II.  Superior portal vein lymph node, lymph node dissection 
(B-C):Five lymph nodes, no carcinoma seen (___).
III.  Portal tissue, gallbladder fossa resection 
(D):Adenocarcinoma, moderately differentiated.
IV.  Portal node tissue, lymph node dissection (E):1.  
Adenocarcinoma, moderately differentiated (see note).2.  
Insipisated gallstone with histiocytic giant cell reaction.

___ Liver USG:
IMPRESSION: Arterial waveform seen at the porta hepatis, but no 
intrahepatic arterial waveforms appreciated.

___: CTA abdomen
IMPRESSION: 
1. Occlusion of the main hepatic artery at the porta hepatis.  
2. Some reconstitution of flow of the right hepatic artery. 
Small segment V right liver lobe infarct.  
3. s/p left hepatic artery ligation with infarct involving 
segments II and III of the left hepatic lobe.  
4. Postsurgical simple fluid in the lesser sac, in the anterior 
left 
perihepatic space and paracolic gutters bilaterally.  
5. Moderate right and small left effusions with associated 
atelectasis.  
  

 

 
Brief Hospital Course:
The patient was admitted to the surgery service for evaluation 
and treatment. She was taken to the OR on  ___. Please 
refer to the operative note for details of the surgery.

Post operative course:

Neuro: The patient received morphine with good effect and 
adequate pain control. When tolerating oral intake, the patient 
was transitioned to oral pain medications.  
 
CV:  The patient was stable from a cardiovascular standpoint;  
vital signs were routinely monitored.
 
Pulmonary:  The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.  Good pulmonary toilet, 
early ambulation and incentive spirometry were encouraged 
throughout this hospitalization.  
 
GI/GU/FEN: 
Post operatively, the patient was made NPO with IVF.   
The patient's diet was advanced when appropriate, which was 
tolerated well. 
A USG of the liver was done that showed arterial waveform at the 
porta hepatis, but no intrahepatic arterial waveforms 
appreciated. This was followed by a CTA of the abdomen to assess 
the hepatic vasculature.This showed occlusion of the main 
hepatic artery at the porta hepatis. There was some 
reconstitution of flow of the right hepatic artery.
The patient's intake and output were closely monitored, and IVF 
were adjusted when necessary.  The patient's electrolytes were 
routinely followed during this hospitalization, and repleted 
when necessary.  

ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. 
 
Endocrine:  The patient's blood sugar was monitored throughout 
this stay; insulin dosing was adjusted accordingly. 
 
Hematology:  The patient's complete blood count was examined 
routinely; no transfusions were required during this stay.
 
Prophylaxis:  The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. She was started on a heparin infusion and coumadin 
post operatively. After 3 days, the heparin infusion was stopped 
and Lovenox was started. She would have to continue to be on 
Lovenox until her INR becomes therapeutic on coumadin after 
discharge.
 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  

 
Medications on Admission:
cyclobenzaprine 10 mg p.o. tid prn anxiety, Lexapro 20 mg po qd,
Nexium 40 mg po qd, Femara 2.5 mg po qd, prochloperazine 10 mg 
po
bid prn nausea, and zolpidem 10 mg po qpm prn sleep.

 
Discharge Medications:
1. enoxaparin 60 mg/0.6 mL Syringe Sig: 0.6 ml Subcutaneous BID 
(2 times a day).
Disp:*14 ml* Refills:*1*
  
2. escitalopram 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
4. Coumadin 1 mg Tablet Sig: Five (5) Tablet PO once a day: dose 
will be adjusted based on Lab: INR per Dr. ___.
Disp:*150 Tablet(s)* Refills:*2*
5. Nexium 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
6. Outpatient Lab Work
STAT ___ on ___ and
results t be fax'd to Dr. ___ ___
7. Medications On Hold
check with Dr. ___: resuming Femara
8. Coumadin 5 mg Tablet Sig: One (1) Tablet PO once a day for 1 
months: dose will be adjusted based on Lab: INR per Dr. ___ 
___.
.
Disp:*30 Tablet(s)* Refills:*0*
9. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
twice a day as needed for nausea.  
10. cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO three 
times a day as needed for anxiety.  
11. zolpidem 10 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for sleep.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Gallbladder CA
Hepatic artery dissection/ligation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ ___ if you have:
fever (101 or greater), chills, nausea, vomiting, jaundice, 
increased abdominal pain, abdominal bloating, incision 
redness/bleeding/drainage, easy bruising, any bleeding. 
You will need to have blood work drawn on ___ and 
___ for coumadin management. The ___ will be drawing the 
labs for you and getting the results to Dr ___. They 
will adjust your coumadin accordingly
You may shower
No driving while taking pain medication
No heavy lifting/straining
You will need to give yourself Lovenox injections twice daily. 
Visiting nurse ___ have been arranged to help you with 
this administration. 
 
Followup Instructions:
___